US05091432
3-(1.6-dihydro-6-oxo-9H-purin-9-yl)propionic acid, ethyl ester (250 mg. 1.06 mol) (AIT-0027) was placed into a 10 ml round bottom flask equipped with a magnetic stirring bar, reflux condenser and CaCl2 drying tube. Then 3 ml acetonitrile and 280 mg (2.18 mmol) 2-(aminomethyl)-1-ethyl-pyrrolidine were added and the solution was heated to reflux. Not all of the ester dissolved at reflux, but as the reaction proceeded, the solution became homogeneous. Reflux was continued for 17 hours, at which time the solvent had completely evaporated. The residue was treated with acetonitrile and allowed to cool. A white precipitate had formed. Ether was added and the solution was stirred to wash the precipitate. The solution was filtered by Buchner vacuum filtration and the precipitate was washed with ether. Upon drying, 300 mg (0.94 mmol) of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-[(1-ethyl-2-pyrrolidinyl)methyl]propanamide (AIT-0029) was obtained as an off-white solid.

reactant | 3-(1.6-dihydro-6-oxo-9H-purin-9-yl)propionic acid, ethyl ester | 1.06 mol, 250 mg | O=C1C=2N=CN(C2N=CN1)CCC(=O)OCC | C10H12N4O3
reactant | acetonitrile | 3 ml | C(C)#N | C2H3N
reactant | 2-(aminomethyl)-1-ethyl-pyrrolidine | 2.18 mmol, 280 mg | NCC1N(CCC1)CC | C7H16N2
solvent | Ether | CCOCC | C4H10O
product | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-[(1-ethyl-2-pyrrolidinyl)methyl]propanamide | 0.94 mmol, 300 mg | O=C1C=2N=CN(C2N=CN1)CCC(=O)NCC1N(CCC1)CC | C15H22N6O2
